US04135051
To 11.33 g. (0.10 mole) of methyl acetimidate hydrochloride, prepared by known procedures, in a 100 ml. 3-necked, round-bottomed flask there was added a solution of 9.71 g. (actual 9.42 g.; 49.6 mmole) of crude p-isobutylpropiophenone, prepared as described in Part A above, in 23 ml. of absolute methanol. The resulting solution was stirred for 12 hours at room temperature to insure complete reaction. Gas liquid chromatographic analysis (Glc analysis) of an aliquot of the reaction mixture indicated greater than 99% ketal formation. The resulting mixture was filtered to remove the precipitated ammonium chloride and concentrated under vacuum. Hexane (50 ml.) was added to the residue and the resulting solution was again filtered to remove any acetamide which might be present. Removal of the hexane solvent under vacuum gave p-isobutylpropiophenone dimethyl ketal as a pale yellow oil which was used without further purification. The NMR was in accord.

reactant | methyl acetimidate hydrochloride | 0.10 mole | Cl.C(C)(OC)=N
reactant | p-isobutylpropiophenone | 49.6 mmole, 9.42 g | C(C(C)C)C1=CC=C(C=C1)C(CC)=O | C13H18O
reactant | Glc | OC1[C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO | C6H12O6
solvent | methanol | CO | CH4O
product | p-isobutylpropiophenone dimethyl ketal | COC(CC)(C1=CC=C(C=C1)CC(C)C)OC | C15H24O2
